US05686424
Using the procedure described previously, a solution of L-isoleucine, N-[1-(carboxymethyl)-L-prolyl] benzylamide (71 mg, 0.19 mmol), 4-N,N-dimethylaminopyridine (7.5 mg, 0.06 mmol, 0.3 eq), 1,3-dicyclohexylcarbodiimide (64 mg, 0.31 mmol, 1.6 eq) in dichloromethane (5.0 mL) was treated with (±) cyclohexylphenylcarbinol (45 mg, 0.24 mmol, 1.3 eq). After TLC indicated the reaction was complete, the mixture was purified by HPLC to provide 27 mg (26%) of L-isoleucine, N-[1-(2-(1-phenyl-1-cyclohexylmethoxy)-2-oxoethyl)-L-prolyl] benzylamide (RD-08-71, Z6338).

reactant | L-isoleucine, N-[1-(carboxymethyl)-L-prolyl] benzylamide | 0.19 mmol, 71 mg | C(=O)(O)CN1[C@H](C(=O)N(C([C@@H](N)[C@@H](C)CC)=O)CC2=CC=CC=C2)CCC1 | C20H29N3O4
reactant | 1,3-dicyclohexylcarbodiimide | 0.31 mmol, 64 mg, 1.6 eq | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
reactant | (±) cyclohexylphenylcarbinol | 0.24 mmol, 45 mg, 1.3 eq | C1(CCCCC1)C(O)C1=CC=CC=C1 | C13H18O
solvent | dichloromethane | 5.0 mL | ClCCl | CH2Cl2
product | L-isoleucine, N-[1-(2-(1-phenyl-1-cyclohexylmethoxy)-2-oxoethyl)-L-prolyl] benzylamide | 27 mg, 26% | C1(=CC=CC=C1)C(OC(CN1[C@H](C(=O)N(C([C@@H](N)[C@@H](C)CC)=O)CC2=CC=CC=C2)CCC1)=O)C1CCCCC1 | C33H45N3O4
